US06172234B2
Methyl (RS)-2,5-dibromovalerate (24.5 g) and toluene (19.8 g) were added to a 49% aqueous potassium carbonate solution (53.3 g), and heated to 80° C. (S)-α-methylbenzylamine (12.0 g) was added dropwise to the mixture obtained above at that temperature, and was stirred at that temperature for 9.5 hours. Water (33.9 g) was added to the reaction mixture, and then the organic layer was separated from the resulting mixture. Separated organic layer was washed with water, a 1% aqueous hydrochloric acid solution and water in this order, and concentrated under reduced pressure. Thus, N-[(S)-α-methylbenzyl]-(RS)-proline methyl ester (16.3 g) was obtained in a yield of 77.8%.

reactant | Methyl (RS)-2,5-dibromovalerate | 24.5 g | BrC(C(=O)OC)CCCBr | C6H10Br2O2
reactant | toluene | 19.8 g | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 53.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-α-methylbenzylamine | 12.0 g | C[C@@H](C1=CC=CC=C1)N | C8H11N
solvent | Water | 33.9 g | O | H2O
product | N-[(S)-α-methylbenzyl]-(RS)-proline methyl ester | 16.3 g, yield of 77.8% | COC(C1N(CCC1)[C@H](C1=CC=CC=C1)C)=O | C14H19NO2
